US07402595B2
6-bromo-2-[1-(3-carboxypropionyl)piperidin-4-ylmethyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-1-oxo-4-phenyl-2-(piperidin-4-ylmethyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride (100 mg) in tetrahydrofuran (5 ml) were added triethylamine (0.14 ml) and succinic anhydride (30 mg), and the mixture was stirred at room temperature for 24 hrs. The solvent was evaporated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was crystallized from isopropyl ether to give the title compound (96 mg, 81%).

reactant | 6-bromo-1-oxo-4-phenyl-2-(piperidin-4-ylmethyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride | 100 mg | Cl.COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1CCNCC1
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 30 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-bromo-2-[1-(3-carboxypropionyl)piperidin-4-ylmethyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 96 mg, 81% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1CCN(CC1)C(CCC(=O)O)=O | C27H27BrN2O6
